US08445509B2
Production of 2-(4-fluorophenyl)-N-(3-oxobutyl)acetamide
To a solution of 4-aminobutan-2-one hydrochloride (2.95 g, 24 mmol) in N,N-dimethylacetamide (50 mL) was slowly added (4-fluorophenyl)acetylchloride (4.90 g, 29 mmol) under ice-cooling, and the mixture was stirred at room temperature for 2 hr. Triethylamine (4.80 g, 48 mmol) was added to the mixture, and the mixture was stirred at room temperature for 17 hr. Ethyl acetate/tetrahydrofuran and saturated aqueous sodium hydrogen carbonate solution were added to the mixture, and the aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×3). The combined organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=50/50→100/0) to give the title compound (2.10 g, 39%) as a white solid.

reactant | 4-aminobutan-2-one hydrochloride | 24 mmol, 2.95 g | Cl.NCCC(C)=O
reactant | (4-fluorophenyl)acetylchloride | 29 mmol, 4.90 g | FC1=CC=C(C=C1)CC(=O)Cl | C8H6ClFO
reactant | Triethylamine | 48 mmol, 4.80 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
solvent | Ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
product | 2-(4-fluorophenyl)-N-(3-oxobutyl)acetamide | 2.10 g, 39% | FC1=CC=C(C=C1)CC(=O)NCCC(C)=O | C12H14FNO2
